US09376418B2
2-Methyl-THF (123 mL), sodium carbonate (2M, 18.5 mL, 36.9 mmol) and 5-bromo-2-fluoropyridine (7.15 g, 40.6 mmol) were added to N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (14 g, 36.9 mmol) and the reaction mixture was purged and flushed with Ar(g) (3×) before adding PdCl2(dppf)-dichloromethane adduct (1.51 g, 1.85 mmol). The reaction mixture was heated to 85° C. overnight. Another portion of 5-bromo-2-fluoropyridine (2.00 g) and PdCl2(dppf)-dichloromethane adduct (300 mg, 0.368 mmol) were added to the reaction mixture and heated to 85° C. overnight. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. A hot solution of 10% water, 20% DCM and 70% MeCN was added to the residue and the product was collected by filtration. The product was washed with cold DCM to yield N-[3-(6-fluoropyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine as a green-tinted solid. MS APC calc'd for C17H13F3N4 [M+H]+ 349. found 349. 1H NMR (500 MHz, DMSO-d6) δ 10.27 (s, 1H), 8.82 (d, J=4.8 Hz, 1H), 8.45 (s, 1H), 8.18 (td, J=2.4 Hz, 8.2 Hz, 1H), 7.93 (s, 1H), 7.56 (s, 1H), 7.31-7.24 (m, 2H), 7.18 (s, 1H), 3.32 (s, 3H).

reactant | sodium carbonate | 36.9 mmol, 2M, 18.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-fluoropyridine | 40.6 mmol, 7.15 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 36.9 mmol, 14 g | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | 5-bromo-2-fluoropyridine | 2.00 g | BrC=1C=CC(=NC1)F | C5H3BrFN
catalyst | PdCl2(dppf) dichloromethane | 1.85 mmol, 1.51 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
catalyst | PdCl2(dppf) dichloromethane | 0.368 mmol, 300 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | N-[3-(6-fluoropyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | FC1=CC=C(C=N1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H12F4N4
